US07855216B2
3-(2-Fluoro-4-methylsulfanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-hydroxy-1,1-dimethyl-ethoxy)-amide semiformate
3-(2-Fluoro-4-methylsulfanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester (0.13 g, 0.38 mmol) was dissolved in IMS (5 ml) before 1M NaOH (0.45 ml, 0.45 mmol) was added and the mixture heated at 60° C. for 2 hours. The reaction mixture was concentrated in vacuo and the residue was re-dissolved in THF (3 ml). 2-Aminooxy-2-methyl-propan-1-ol (100 mg, 0.56 mmol), DIPEA (0.20 ml, 1.1 mmol) and HATU (210 mg, 0.56 mmol) were added and the mixture stirred at room temperature. On completion of the reaction, the solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The organic extract was washed with water, dried (MgSO4), and concentrated in vacuo. The resultant residue was purified by flash chromatography (Si-PPC, DCM:MeOH, gradient 99:1 to 90:10) to give an orange solid. The orange solid was then purified by reversed phase HPLC (Phenomenex Luna 5 phenyl/hexyl 0.1% HCO2H in water on a gradient of acetonitrile) to provide the title compound (semiformate) as a yellow solid (7 mg, 5%). LCMS (method A): RT=5.87 min, M+H+=405. 1H NMR (d6-DMSO, 400 MHz) 1.10 (6H, s), 2.42 (3H, s), 3.20 (2H, s), 6.58 (1H, t, J=8.58 Hz), 6.91 (1H, dd, J=8.42, 2.06 Hz), 7.20 (1H, dd, J=12.05, 2.11 Hz), 7.37 (1H, dd, J=5.84, 1.11 Hz), 7.81 (1H, s), 8.23 (1H, d, J=5.83 Hz), 8.52 (1H, d, J=1.07 Hz).

reactant | 3-(2-Fluoro-4-methylsulfanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 0.38 mmol, 0.13 g | C(C)OC(=O)C1=C(C=2C=NC=CC2N1)NC1=C(C=C(C=C1)SC)F | C17H16FN3O2S
reactant | NaOH | 0.45 mmol, 1M, 0.45 ml | [OH-].[Na+]
reactant | 2-Aminooxy-2-methyl-propan-1-ol | 0.56 mmol, 100 mg | NOC(CO)(C)C | C4H11NO2
reactant | DIPEA | 1.1 mmol, 0.20 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.56 mmol, 210 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 3-(2-Fluoro-4-methylsulfanyl-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-hydroxy-1,1-dimethyl-ethoxy)-amide | 7 mg, 5% | OCC(ONC(=O)C1=C(C=2C=NC=CC2N1)NC1=C(C=C(C=C1)SC)F)(C)C | C19H21FN4O3S
